US04966891
A solution of 5'-deoxy-5-fluorocytidine (490 mg), p-toluenesulfonic acid monohydrate (418 mg) and 2,2-dimethoxypropane (984 μl) in acetone (10 ml) was stirred for 1.5 hour at room temperature. To the solution was added sodium hydrogen carbonate (900 mg) and the mixture was stirred for 4 hours at room temperature. The precipitate was filtered off and washed with acetone. The combined filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane-methanol) to give 5'-deoxy-5-fluoro-2',3'-O-isopropylidenecytidine (570 mg). MS 286 (MH+); mp of the picrate 169°~171° C.

reactant | 5'-deoxy-5-fluorocytidine | 490 mg | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)N | C9H12FN3O4
reactant | p-toluenesulfonic acid monohydrate | 418 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2,2-dimethoxypropane | 984 μl | COC(C)(C)OC | C5H12O2
reactant | sodium hydrogen carbonate | 900 mg | C(O)([O-])=O.[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5'-deoxy-5-fluoro-2',3'-O-isopropylidenecytidine | 570 mg | C[C@@H]1[C@@H]2[C@H]([C@@H](O1)N3C=C(C(=NC3=O)N)F)OC(O2)(C)C | C12H16FN3O4
